US06919331B2
To a solution of the 3-cyclopropyl-1H-quinazoline-2,4-dione (148 mg, 0.73 mmol) in DMF (10 mL) was added BTPP (684 mg, 2.19 mmol). After stirring for 20 minutes, [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester; HCl salt (294 mg, 0.73 mmol) was added and the resulting mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue precipitated from water. The title compound was collected by filtration and extensively washed with water and dried in vacuo to yield [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester as an off-white solid (310 mg, 80%):

reactant | 3-cyclopropyl-1H-quinazoline-2,4-dione | 0.73 mmol, 148 mg | C1(CC1)N1C(NC2=CC=CC=C2C1=O)=O | C11H10N2O2
reactant | BTPP | 2.19 mmol, 684 mg | CC(C)(C)N=P(N1CCCC1)(N2CCCC2)N3CCCC3 | C16H33N4P
reactant | [2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1)=O | C19H28ClN3O2
reactant | HCl | 0.73 mmol, 294 mg | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 310 mg, 80% | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C30H37N5O4
